US04263437
To 100 mg of (10,11-dihydro dibenzo[b,f]oxepin-2-yl)-acetic acid in 5 ml of dry tetrahydrofuran were added 4 drops of oxalyl chloride, and the mixture was stirred with ice-cooling. To the mixture were added 1 drop of dimethylformamide 1.75 hours later, 4 drops of oxalyl chloride 4 hours later and 1% ammonia in 5 ml tetrahydrofuran 6 hours later, and the resulting mixture was stirred for 17 hours at room temperature. To this was added water, and the mixture was extracted with ethyl acetate. The extract was washed with a 1% sodium hydroxide solution and then with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain a residue, which was recrystallized from ethyl acetate to yield 48 mg (yield: 48%) of (10,11-dihydro dibenzo[b,f]oxepin-2-yl)-acetamide as colorless crystals having a melting point of 205°-206° C.

reactant | (10,11-dihydro dibenzo[b,f]oxepin-2-yl)-acetic acid | 100 mg | C1=C(C=CC=2OC3=C(CCC21)C=CC=C3)CC(=O)O | C16H14O3
reactant | ammonia | N | H3N
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | oxalyl chloride | 4 drops | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
catalyst | oxalyl chloride | 4 drops | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (10,11-dihydro dibenzo[b,f]oxepin-2-yl)-acetamide | 48 mg, yield: 48% | C1=C(C=CC=2OC3=C(CCC21)C=CC=C3)CC(=O)N | C16H15NO2
